US04758587
To a solution of 1.27 g of 1-hydroxy-2,4-dimethoxynaphthalene, prepared as shown in Preparations 7 and 8, in 50 ml of tetrahydrofuran was added 0.694 g of methyl chloroformate followed by 0.743 g of triethylamine. The mixture was stirred at room temperature for 16 hours, filtered, then the solvent removed under reduced pressure. The residue was dissolved in diethyl ether, washed with dilute hydrochloric acid and dried over anhydrous sodium sulfate. The ether was removed under reduced pressure and the residue chromatographed on silica gel, eluting with a 1:1 mixture of methylene chloride and hexane, to give 1-methoxycarbonyloxy-2,4-dimethoxynaphthalene, m.p. 128°-129° C.

reactant | 1-hydroxy-2,4-dimethoxynaphthalene | 1.27 g | OC1=C(C=C(C2=CC=CC=C12)OC)OC | C12H12O3
reactant | methyl chloroformate | 0.694 g | ClC(=O)OC | C2H3ClO2
reactant | triethylamine | 0.743 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 1-methoxycarbonyloxy-2,4-dimethoxynaphthalene | COC(=O)OC1=C(C=C(C2=CC=CC=C12)OC)OC | C14H14O5
